US06251908B1
0.79 g (0.003 mol) of 4-(2-oxo-2H-1-benzopyran-4-yl)piperazine [obtainable, for example, by reaction of N,N-bis(2-chloroethyl) amine with 4-amino-2-oxo-2H-1-benzopyran] and 0.80 g (0.003 mol) of 3-(4-chloro-butyl)-5-cyanoindole [which can be prepared by reduction of 3-(4-chlorobutanoyl) indole-5-carbonitrile] are dissolved in 100 ml of acetonitrile, 0.50 ml (0.004 mol) of triethylamine and 1.20 ml (0.007 mol) of ethyldiisopropylamine are added, and the mixture is stirred overnight on a steam bath. After customary working up, 3-{4-[4-(2-oxo-2H-1-benzopyran-4-yl)-1-piperazinyl]butyl}indole-5-carbonitrile, dihydrochloride, m.p. 284-285°, is obtained.

reactant | 4-(2-oxo-2H-1-benzopyran-4-yl)piperazine | 0.003 mol, 0.79 g | O=C1OC2=C(C(=C1)N1CCNCC1)C=CC=C2 | C13H14N2O2
reactant | 3-(4-chloro-butyl)-5-cyanoindole | 0.003 mol, 0.80 g | ClCCCCC1=CNC2=CC=C(C=C12)C#N | C13H13ClN2
reactant | triethylamine | 0.004 mol, 0.50 ml | C(C)N(CC)CC | C6H15N
reactant | ethyldiisopropylamine | 0.007 mol, 1.20 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 3-{4-[4-(2-oxo-2H-1-benzopyran-4-yl)-1-piperazinyl]butyl}indole-5-carbonitrile, dihydrochloride | Cl.Cl.O=C1OC2=C(C(=C1)N1CCN(CC1)CCCCC1=CNC3=CC=C(C=C13)C#N)C=CC=C2 | InChI=1S/C26H26N4O2.2ClH/c27-17-19-8-9-23-22(15-19)20(18-28-23)5-3-4-10-29-11-13-30(14-12-29)24-16-26(31)32-25-7-2-1-6-21(24)25;;/h1-2,6-9,15-16,18,28H,3-5,10-14H2;2*1H
